US07067529B2
To a stirred solution of 6-hydroxy-1-(3-isopropoxy-benzoyl)-7-methoxy-isoquinoline-4-carboxylic acid ethyl ester (30 mg, 0.073 mmol) in N,N-dimethylformamide (1 mL) was added potassium carbonate (81.1 mg, 0.58 mmol) and 3-bromo-1-propanol (0.033 mL, 0.22 mmol) at room temperature. The reaction mixture was heated 85° C. for 2 hrs. The solvent was evaporated and the residue was purified on a flash chromatography (Merck Silica gel 60, 70–230 mesh, 50% ethyl acetate/hexane) to afford product 6-(3-hydroxy-propoxy)-1-(3-isopropoxy-benzoyl)-7-methoxy-isoquinoline-4-carboxylic acid ethyl ester as a colorless oil (34 mg, 99% yield).

reactant | 6-hydroxy-1-(3-isopropoxy-benzoyl)-7-methoxy-isoquinoline-4-carboxylic acid ethyl ester | 0.073 mmol, 30 mg | C(C)OC(=O)C1=CN=C(C2=CC(=C(C=C12)O)OC)C(C1=CC(=CC=C1)OC(C)C)=O | C23H23NO6
reactant | potassium carbonate | 0.58 mmol, 81.1 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromo-1-propanol | 0.22 mmol, 0.033 mL | BrCCCO | C3H7BrO
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 6-(3-hydroxy-propoxy)-1-(3-isopropoxy-benzoyl)-7-methoxy-isoquinoline-4-carboxylic acid ethyl ester | 34 mg, 99% yield | C(C)OC(=O)C1=CN=C(C2=CC(=C(C=C12)OCCCO)OC)C(C1=CC(=CC=C1)OC(C)C)=O | C26H29NO7
